US08039472B2
A solution of N,N-Diisopropylethylamine (0.0078 ml, 0.045 mmol) in THF (1 ml) is added to 4-Isobutoxy-piperidine (0.008 g, 0.05 mmol) followed by a solution of 3-(Chlorosulfonyl)benzoic acid (9.93 mg, 0.045 mmol) and shaken at room temperature for 48 hours. The solution is evaporated under vacuum to afford 3-(4-Isobutoxy-piperidine-1-sulfonyl)-benzoic acid which is used without purification; [M+H]+ 342.00

reactant | N,N-Diisopropylethylamine | 0.045 mmol, 0.0078 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-Isobutoxy-piperidine | 0.05 mmol, 0.008 g | C(C(C)C)OC1CCNCC1 | C9H19NO
reactant | 3-(Chlorosulfonyl)benzoic acid | 0.045 mmol, 9.93 mg | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-(4-Isobutoxy-piperidine-1-sulfonyl)-benzoic acid | C(C(C)C)OC1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C16H23NO5S
